US06890923B2
b) 3-[1,2,3,4-Tetrahydro-3-methyl-1-(2-methylpropyl)-2,4-dioxo-6-[[2-(trifluoromethyl)phenyl]methyl]thieno[2,3-d]pyrimidin-5-yl]-2-propenoic acid
Lithium hydroxide monohydrate (0.20 g) and water (6 ml) were added to a solution of 3-[1,2,3,4-tetrahydro-3-methyl-1-(2-methylpropyl)-2,4-dioxo-6-[[2-(trifluoromethyl)phenyl]methyl]-thieno[2,3-d]pyrimidin-5-yl]-2-propenoic acid, methyl ester (0.20 g) in tetrahydrofuran (7 ml) and stirred at room temperature for 20 hours. The solution was neutralised to pH7 and extracted with dichloromethane. The organic extracts were dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by flash silica chromatography eluting with a gradient of 0-5% ethanol in dichloromethane to give the title compound as a white solid (0.10 g).

reactant | Lithium hydroxide monohydrate | 0.20 g | O.[OH-].[Li+]
reactant | water | 6 ml | O | H2O
reactant | 3-[1,2,3,4-tetrahydro-3-methyl-1-(2-methylpropyl)-2,4-dioxo-6-[[2-(trifluoromethyl)phenyl]methyl]-thieno[2,3-d]pyrimidin-5-yl]-2-propenoic acid, methyl ester | 0.20 g | CN1C(N(C2=C(C1=O)C(=C(S2)CC2=C(C=CC=C2)C(F)(F)F)C=CC(=O)OC)CC(C)C)=O | C23H23F3N2O4S
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | 3-[1,2,3,4-Tetrahydro-3-methyl-1-(2-methylpropyl)-2,4-dioxo-6-[[2-(trifluoromethyl)phenyl]methyl]thieno[2,3-d]pyrimidin-5-yl]-2-propenoic acid | 0.10 g | CN1C(N(C2=C(C1=O)C(=C(S2)CC2=C(C=CC=C2)C(F)(F)F)C=CC(=O)O)CC(C)C)=O | C22H21F3N2O4S
